US07589232B2
Step a) Formation of 4-[(4-butylphenyl)ethynyl]-2-fluorobenzaldehyde
To a solution of 4-bromo-2-fluoro-benzaldehyde (10.0 g, 49.3 mmol), 1-butyl-4-ethynyl-benzene (8.57 g, 54.2 mmol), CuI (94 mg, 0.49 mmol) and of Et3N (9.9 g) in anhydrous THF (120 mL) were added PPh3 (258 mg, 1 mmol) and Pd(OAc)2 (221 mg). The reaction mixture was heated under argon for 3 hours. After cooling to rt, the salts were filtered off, then charcoal and silica gel were added to the solution. After filtration, the solution was concentrated under reduced pressure and the residual oil was dissolved in petroleum ether (100 mL) and stored in the freezer. The solids were filtered off and washed with cold petroleum ether to give the title compound as a white powder (5.53 g, 40%). 1H NMR (CDCl3) δ 10.33 (s, 1H), 7.82 (t, J=7.7 Hz, 1H), 7.45 (d, J=7.9 Hz, 2H), 7.38 (d, J=8.3 Hz, 1H), 7.30 (d, J=10.9 Hz, 1H), 7.18 (d, J=8.3 Hz, 2H), 2.62 (t, J=7.7 Hz, 2H), 1.58 (m, 2H), 1.36 (m, 2H), 0.92 (t, J=7.3 Hz, 3H). HPLC, Rt: 5.26 min (purity: 99.4%).

reactant | 4-bromo-2-fluoro-benzaldehyde | 49.3 mmol, 10.0 g | BrC1=CC(=C(C=O)C=C1)F | C7H4BrFO
reactant | 1-butyl-4-ethynyl-benzene | 54.2 mmol, 8.57 g | C(CCC)C1=CC=C(C=C1)C#C | C12H14
reactant | Et3N | 9.9 g | CCN(CC)CC | C6H15N
solvent | THF | 120 mL | C1CCOC1 | C4H8O
catalyst | CuI | 0.49 mmol, 94 mg | [Cu]I
catalyst | Pd(OAc)2 | 221 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | PPh3 | 1 mmol, 258 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
product | 4-[(4-butylphenyl)ethynyl]-2-fluorobenzaldehyde | 5.53 g, 40% | C(CCC)C1=CC=C(C=C1)C#CC1=CC(=C(C=O)C=C1)F | C19H17FO
